US09169254B2
4-Bromo-2-fluorophenol (382 mg, 2.0 mmol) was dissolved in DMI (0.5 mL), and potassium tert-butoxide (224 mg, 2.0 mmol) was added at room temperature. 1-Iodo-3-fluoropropane (376 mg, 2.0 mmol) was added to the reaction solution, and the mixture was heated to 60° C. and stirred for six hours. The reaction solution was purified by silica gel column chromatography to give 4-bromo-2-fluoro-1-(3-fluoro-propoxy)-benzene (410 mg, 82%).

reactant | 4-Bromo-2-fluorophenol | 2.0 mmol, 382 mg | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | potassium tert-butoxide | 2.0 mmol, 224 mg | CC(C)([O-])C.[K+]
reactant | 1-Iodo-3-fluoropropane | 2.0 mmol, 376 mg | ICCCF | C3H6FI
solvent | DMI | 0.5 mL | CN1CCN(C1=O)C | C5H10N2O
product | 4-bromo-2-fluoro-1-(3-fluoro-propoxy)-benzene | 410 mg, 82% | BrC1=CC(=C(C=C1)OCCCF)F | C9H9BrF2O
